data/oMe_Silver.jsonl
{"reaction_id": "NR-322_1-C(F)(F)F_2-c2ccc(N(C)C)cc2_3-c2c(Cl)ccc(Cl)c2_4-c2ccoc2","level": "easy","name": "Wittig Reaction","reactants_smiles": ["c1ccccc1[P+](c1ccccc1)(c1ccccc1)C([H])(C(F)(F)F)c2ccc(N(C)C)cc2","O=C(c2c(Cl)ccc(Cl)c2)c2ccoc2"],"products_smiles": ["C(=C(c2c(Cl)ccc(Cl)c2)c2ccoc2)(C(F)(F)F)c2ccc(N(C)C)cc2","O=P(c1ccccc1)(c1ccccc1)c1ccccc1"],"conditions": "Strong base (e.g., LDA, nBuLi)","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1ccccc1[P+](c1ccccc1)(c1ccccc1)[C-](C(F)(F)F)c2ccc(N(C)C)cc2","step_weight": 0,"rationale": "The strong base abstracts the acidic α-proton next to the positively charged phosphorus, stabilized by adjacent phenyl groups through inductive and resonance effects, generating the nucleophilic ylide."},{"step": 2,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "c1ccccc1P1(c2ccccc2)(c2ccccc2)OC(c2c(Cl)ccc(Cl)c2)(c2ccoc2)C1(C(F)(F)F)c2ccc(N(C)C)cc2","step_weight": 0,"rationale": "The nucleophilic ylide carbon attacks the electrophilic carbonyl carbon, while the carbonyl oxygen coordinates to phosphorus, forming a four-membered oxaphosphetane via concerted cycloaddition favored by orbital symmetry."},{"step": 3,"type": "pericyclic","subtype": "cycloreversion","intermediate_smiles": "C(=C(c2c(Cl)ccc(Cl)c2)c2ccoc2)(C(F)(F)F)c2ccc(N(C)C)cc2","step_weight": 0,"rationale": "The strained oxaphosphetane undergoes cycloreversion, driven by relief of ring strain and formation of strong P=O and C=C bonds, yielding the alkene and triphenylphosphine oxide."}],"description": "A strong base deprotonates the phosphonium salt to form a stabilized ylide, which undergoes [2+2] cycloaddition with the carbonyl to give an oxaphosphetane intermediate. Cycloreversion then yields the alkene and triphenylphosphine oxide as the thermodynamically favored products."}
{"reaction_id": "NR-337_1-C#N_2-c2ccc(OC)cc2_3-C(=O)OCC_4-CC(C)C_5-[N+](=O)[O-]","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C#N)c(c2ccc(OC)cc2)c(C(=O)OCC)c(CC(C)C)c1[N+](=O)[O-]","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C#N)c(c2ccc(OC)cc2)c(C(=O)OCC)c(CC(C)C)c1[N+](=O)[O-]"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C#N)c(c2ccc(OC)cc2)c(C(=O)OCC)c(CC(C)C)c1[N+](=O)[O-]","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C#N)c(c2ccc(OC)cc2)c(C(=O)OCC)c(CC(C)C)c1[N+](=O)[O-]","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
